US04291056
To a solution of 8.5 g of 3-(2,2-dichlorovinyloxy)-benzyl bromide in 12.6 ml of acetic acid and 12.6 ml of water are added 8.4 g of hexamethylene tetramine. The resultant solution is refluxed for two hours. Subsequently 10 ml of HC1 are added and the reaction mixture is stirred for half an hour at 100°-110° C. The solution is washed with 100 ml of water and extracted cold (3 times) with 100 ml of ethyl acetate. The extract is washed with sodium carbonate solution and evaporated, to yield 5.8 g of 3-(2,2-dichlorovinyloxy)-benzaldehyde as a yellowish-brown oil, which can be used without further purification.

reactant | 3-(2,2-dichlorovinyloxy)-benzyl bromide | 8.5 g | ClC(=COC=1C=C(CBr)C=CC1)Cl | C9H7BrCl2O
reactant | hexamethylene tetramine | 8.4 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 12.6 ml | C(C)(=O)O | C2H4O2
solvent | water | 12.6 ml | O | H2O
product | 3-(2,2-dichlorovinyloxy)-benzaldehyde | 5.8 g | ClC(=COC=1C=C(C=O)C=CC1)Cl | C9H6Cl2O2
